US03952012
3-Chloro-4-methylbenzoyl chloride is prepared by refluxing together 30 g. (0.175 mole) of 3-chloro-4-methyl benzoic acid and 85 ml. thionyl chloride for about 2.5 hours, after which the excess thionyl chloride is distilled off under vacuum. The aroyl chloride product, 3-chloro-4-methylbenzoyl chloride, distills over at b.p. 70°-74°C., 10.25 mm. Hg.

reactant | 3-chloro-4-methyl benzoic acid | 0.175 mole | ClC=1C=C(C(=O)O)C=CC1C | C8H7ClO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-Chloro-4-methylbenzoyl chloride | ClC=1C=C(C(=O)Cl)C=CC1C | C8H6Cl2O
